US03978066
4,6-Dihydropyrrolo[4,3,2-de]-s-triazolo[3,4-a]isoquinoline (1a, R2 = H)
5-Hydrazino-1,3-dihydropyrrolo[4,3,2-de]isoquinoline hydrofluoroborate (300 mg), described in Example 8, in formic acid (98%, 4 ml) is heated at 100°C for 2 hours. The mixture is then poured into a saturated sodium bicarbonate solution. The precipitate is collected to give the title compound, mp 248° - 249°C, nmr (DMSO-d6) δ 5.65 (2H), 7.3 (4H), 8.5 (1H), 11.3 (1H).

reactant | 5-Hydrazino-1,3-dihydropyrrolo[4,3,2-de]isoquinoline | 300 mg | N(N)C1=NCC=2C=3C(=CC=CC13)NC2 | C10H10N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | formic acid | 4 ml | C(=O)O | CH2O2
product | 4,6-Dihydropyrrolo[4,3,2-de]-s-triazolo[3,4-a]isoquinoline | C1=CC=C2C=3C(CN4C(C13)=NN=C4)=CN2 | C11H8N4
